US06610689B2
Preparation of Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-[N′α-(4-methylbenzenesulfonyl)-L-phenylalanyl]-L-lysine
A suspension of Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-L-lysine hydrochloride (600 mg) in THF (20 mL) was treated with a 1N NaOH (1.5 mL) to pH 10. A solution of commercially available Nα-(4-methylbenzenesulfonyl)-L-phenylalanine acid chloride (250 mg) in dry THF 20 mL) was added to the suspension and stirred for 2 h. Afterwards, water (2 mL) was added resulting in a clear solution. The reaction mixture was stirred for 12 h. Then, EtOAc (30 mL) was added and the organic phase was washed with 1N HCl. The organic phase was removed. Evaporation of the solvent gave a crude product which was triturated with ether to yield 750 mg (76%) of the title compound.

reactant | Nα-isobutyl-Nα-(4-methylbenzenesulfonyl)-L-lysine hydrochloride | 600 mg | Cl.C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C
reactant | NaOH | 1N, 1.5 mL | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | Nα-Isobutyl-Nα-(4-methylbenzenesulfonyl)-Nε-[N′α-(4-methylbenzenesulfonyl)-L-phenylalanyl]-L-lysine | 750 mg, 76% | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCCCC[C@@H](C(=O)O)N(CC(C)C)S(=O)(=O)C3=CC=C(C=C3)C | C33H43N3O7S2
